US06323344B1
2-Bromo-4-chlorobutanoyl bromide (80.3 g, 300 mmol) was slowly added to a solution of N-methylaniline (34.5 g, 320 mmol) and triethylamine (33.5 g, 330 mmol) in toluene (340 mL). The reaction was exothermic, and the mixture was cooled to maintain the temperature at about 40° C. After the addition was complete, the resulting thick mixture was stirred for 30 minutes, 150 mL water was added, and the mixture was stirred further. The aqueous and organic phases were separated, and the organic phase was washed with 5% hydrochloric acid and with water. The toluene was evaporated completely under slight vacuum to yield 86.3 g 2-bromo-4-chloro-N-methyl-N-phenylbutanamide (98% yield, approximately 95-96% pure). The triethylamine may be recovered from the aqueous phase by addition of base and separation.

reactant | 2-Bromo-4-chlorobutanoyl bromide | 300 mmol, 80.3 g | BrC(C(=O)Br)CCCl | C4H5Br2ClO
reactant | N-methylaniline | 320 mmol, 34.5 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 330 mmol, 33.5 g | C(C)N(CC)CC | C6H15N
reactant | water | 150 mL | O | H2O
solvent | toluene | 340 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-4-chloro-N-methyl-N-phenylbutanamide | 86.3 g, 98% yield | BrC(C(=O)N(C1=CC=CC=C1)C)CCCl | C11H13BrClNO
